data/polar.json
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:4](=[O+:14][CH3:13])[c:15]1[cH:10][cH:8][cH:7][cH:9][cH:11]1.[cH:1]1[n:2][c:6]([O-:5])[cH:16][cH:3][cH:12]1>>[cH:1]1[n:2]([CH:4]([O:14][CH3:13])[c:15]2[cH:10][cH:8][cH:7][cH:9][cH:11]2)[c:6](=[O:5])[cH:16][cH:3][cH:12]1", "epd": [["Pi-/Sigma+", [1, 2], [2, 4]], ["LP-/Pi+", [5], [5, 6]], ["Pi-/Pi+", [3, 12], [1, 12]], ["Pi-/Pi+", [6, 16], [3, 16]], ["Pi-/LP+", [4, 14], [14]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[c:29]([CH:14]=[C:22]2[S:7][c:27]3[cH:23][cH:9][cH:17][cH:6][c:26]3[N:34]2[CH3:28])[cH:2][cH:31][cH:33][cH:30]1.[cH:3]1[cH:4][cH:16][cH:8][c:10]2[c:5]1[N+:21]([CH3:12])=[CH:15][C:13]2=[CH:11][c:20]1[cH:18][cH:24][cH:32][cH:25][cH:19]1>>[cH:1]1[c:29]([CH:14]([CH:11]([c:13]2[c:10]3[c:5]([cH:3][cH:4][cH:16][cH:8]3)[n:21]([CH3:12])[cH:15]2)[c:20]2[cH:18][cH:24][cH:32][cH:25][cH:19]2)[c:22]2[s:7][c:27]3[cH:23][cH:9][cH:17][cH:6][c:26]3[n+:34]2[CH3:28])[cH:2][cH:31][cH:33][cH:30]1", "epd": [["LP-/Pi+", [34], [22, 34]], ["Pi-/Sigma+", [14, 22], [14, 11]], ["Pi-/Pi+", [11, 13], [13, 15]], ["Pi-/LP+", [15, 21], [21]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:11][cH:2][cH:19][c:23]2[cH:26][cH:14][cH:25][c:24]-2[cH:18]1.[cH:3]1[cH:4][cH:13][cH:6][c:7]2[c:5]1[N+:20]([CH3:9])=[CH:12][C:10]2=[CH:8][c:17]1[cH:15][cH:21][cH:27][cH:22][cH:16]1>>[cH:1]1[cH:11][cH:2][cH:19][c:23]2[c:24]([cH+:18]1)[CH:25]([CH:8]([c:10]1[c:7]3[c:5]([cH:3][cH:4][cH:13][cH:6]3)[n:20]([CH3:9])[cH:12]1)[c:17]1[cH:15][cH:21][cH:27][cH:22][cH:16]1)[CH:14]=[CH:26]2", "epd": [["Pi-/Pi+", [24, 18], [23, 24]], ["Pi-/Pi+", [26, 23], [14, 26]], ["Pi-/Sigma+", [25, 14], [25, 8]], ["Pi-/Pi+", [8, 10], [10, 12]], ["Pi-/LP+", [12, 20], [20]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[cH:4][c:12]([CH:3]=[N+:11]([O-:27])[O-:28])[cH:5][cH:2][c:10]1[CH3:13].[cH:6]1[c:14]([CH+:26][c:15]2[cH:7][c:18]([F:22])[cH:25][c:19]([F:23])[cH:8]2)[cH:9][c:16]([F:20])[cH:24][c:17]1[F:21]>>[cH:1]1[cH:4][c:12]([CH:3]([N+:11](=[O:27])[O-:28])[CH:26]([c:14]2[cH:6][c:17]([F:21])[cH:24][c:16]([F:20])[cH:9]2)[c:15]2[cH:7][c:18]([F:22])[cH:25][c:19]([F:23])[cH:8]2)[cH:5][cH:2][c:10]1[CH3:13]", "epd": [["LP-/Pi+", [27], [11, 27]], ["Pi-/Sigma+", [3, 11], [3, 26]]]}
{"reaction_name": "Michael addition", "rsmi": "[S:8]([c:18]1[cH:29][cH:22][cH:20][cH:25][cH:32]1)([C:28]([S:9]([c:19]1[cH:30][cH:23][cH:21][cH:24][cH:31]1)(=[O:39])=[O:40])=[CH2:13])(=[O:41])=[O:42].[cH:1]1[cH:3][c:38]([B-:43]2([c:11]3[s:17][c:10]([CH3:27])[cH:12][cH:33]3)[O:6][c:44]3[cH:35][cH:37][cH:36][cH:34][c:45]3[O:7]2)[cH:4][cH:2][c:5]1[C:26]([F:14])([F:15])[F:16]>>[S:8]([c:18]1[cH:29][cH:22][cH:20][cH:25][cH:32]1)([C-:28]([S:9]([c:19]1[cH:30][cH:23][cH:21][cH:24][cH:31]1)(=[O:39])=[O:40])[CH2:13][c:11]1[s:17][c:10]([CH3:27])[cH:12][cH:33]1)(=[O:41])=[O:42].[cH:1]1[cH:3][c:38](-[b-:43]2[o+:6][c:44]3[cH:35][cH:37][cH:36][cH:34][c:45]3[o:7]2)[cH:4][cH:2][c:5]1[C:26]([F:14])([F:15])[F:16]", "epd": [["LP-/Pi+", [6], [43, 6]], ["Sigma-/Sigma+", [11, 43], [11, 13]], ["Pi-/LP+", [13, 28], [28]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:1]=[S:5](=[O:2])([N:14]=[C:13]=[O:16])[c:20]1[cH:8][cH:3][c:19]([CH3:21])[cH:4][cH:9]1.[cH:6]1[cH:10][c:11]2[c:22]([cH:15][cH:23]1)[CH:18]=[CH:7][CH:17]2[Li:12]>>[Li+:12].[O:1]=[S:5](=[O:2])([N-:14][C:13](=[O:16])[CH:17]1[CH:7]=[CH:18][c:22]2[c:11]1[cH:10][cH:6][cH:23][cH:15]2)[c:20]1[cH:8][cH:3][c:19]([CH3:21])[cH:4][cH:9]1", "epd": [["Sigma-/Sigma+", [17, 12], [17, 13]], ["Pi-/LP+", [13, 14], [14]]]}
{"reaction_name": "Phosphonate ester formation", "rsmi": "[Cl:2][P:6]([Cl:3])(=[O:5])[CH3:7].[O-:1][CH3:4]>>[Cl-:3].[O:1]([CH3:4])[P:6]([Cl:2])(=[O:5])[CH3:7]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Pi-/LP+", [5, 6], [5]], ["LP-/Pi+", [5], [5, 6]], ["Sigma-/LP+", [3, 6], [3]]]}
{"reaction_name": "Boc protection", "rsmi": "[C:1]([CH3:5])([CH3:6])([CH3:7])[O:15][C:11](=[O:3])[O:13][C:12](=[O:4])[O:16][C:2]([CH3:8])([CH3:9])[CH3:10].[N:14]([CH3:17])([H:18])[H:19]>>[C:1]([CH3:5])([CH3:6])([CH3:7])[O:15][C:11](=[O:3])[N:14]([CH3:17])[H:18].[C:2]([CH3:8])([CH3:9])([CH3:10])[O:16][C:12](=[O:4])[O:13][H:19]", "epd": [["LP-/Sigma+", [14], [11, 14]], ["Pi-/LP+", [3, 11], [3]], ["LP-/Pi+", [3], [3, 11]], ["Sigma-/LP+", [11, 13], [13]], ["LP-/Sigma+", [13], [13, 19]], ["Sigma-/LP+", [14, 19], [14]]]}
{"reaction_name": "Neber rearrangement", "rsmi": "[O:1]([S:4]([CH3:2])(=[O:7])=[O:8])[N:5]=[C:9]([CH2-:3])[CH3:6]>>[CH2:3]1[N:5]=[C:9]1[CH3:6].[O-:1][S:4]([CH3:2])(=[O:7])=[O:8]", "epd": [["Sigma-/LP+", [1, 5], [1]], ["LP-/Sigma+", [3], [3, 5]]]}
{"reaction_name": "Ketene acetal substitution", "rsmi": "[Cl:1][C:4]([O:5][CH3:7])=[CH2:6].[O-:2][CH3:3]>>[Cl-:1].[O:2]([CH3:3])[C:4]([O:5][CH3:7])=[CH2:6]", "epd": [["LP-/Sigma+", [2], [2, 4]], ["Sigma-/LP+", [1, 4], [1]]]}
